US04594345
4'-Methoxy-3-methyl-8-propenylflavone (3 grams) is dissolved in 35 ml of glacial acetic acid, small amount of ice is added thereto, 6.8 grams of potassium permanganate is added thereto during eight hours keeping the solution at 20° to 30° C. and stirring throughout, then aqueous solution of sodium bisulfite is added thereto keeping the solution at 30° to 40° C., and the mixture is stirred for one hour. Crystals separated out therefrom are collected by filtration, washed with water, then dissolved in 10% sodium hydroxide solution, the solution is treated with an activated charcoal, filtered, the filtrate is adjusted to pH 3 with concentrated hydrochloric acid, crystals separated out are collected by filtration, and washed with water to give 1.2 grams of 4'-methoxy-3-methylflavone-8-carboxylic acid, colorless needles, melting point 266° to 267° C.

reactant | 4'-Methoxy-3-methyl-8-propenylflavone | 3 grams | COC1=CC=C(C=2OC3=C(C=CC=C3C(C2C)=O)C=CC)C=C1 | C20H18O3
reactant | potassium permanganate | 6.8 grams | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 4'-methoxy-3-methylflavone-8-carboxylic acid | 1.2 grams | COC1=CC=C(C=2OC3=C(C=CC=C3C(C2C)=O)C(=O)O)C=C1 | C18H14O5
